2142-05-16 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2142-5-15**] 08:16 PM
   - Pt developed paced WCT to 110s, holding pressures. No interventions.
   EKG - HR 108, PR 178, QRS 162, QTc 460, paced. Reviewing old notes
   shows patient developed CHB in [**2-1**], intermittently 2nd degree->1st
   degree block, variably paced. Consider EP consult?
   - Low UOP and systolics in 70s-100s; got multiple boluses IVF and blood
   products.
   - Foley placed by urology
   - Pt has received 5 units pRBC, 6 FFP total to-date for this admission
   - UA negative, 1.030, Na 45, FeNA 0.3%, osms 541 (on diuretics)
   - persistent hypotension, tachycardia and slightly worsening back
   pain.  IR --> angiography; no acute extravasation and no intervention.
   Attempted US guided right fem artery cath; performed US guided left fem
   artery cath; aortogram and left common iliac atery angiogram. Rec groin
   checks bilaterally/pedal pulse checks.
   Allergies:
   Roxicet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Cefepime
   Headache;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2142-5-16**] 12:50 AM
   Morphine Sulfate - [**2142-5-16**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Back pain improved. No new SOB, lightheadedness, CP.
   Flowsheet Data as of  [**2142-5-16**] 06:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**44**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.3
C (97.4
   HR: 77 (64 - 113) bpm
   BP: 92/49(60) {78/43(58) - 109/67(92)} mmHg
   RR: 13 (7 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    Bladder pressure: 21 (21 - 21) mmHg
   Total In:
                                                                  6,310 mL
                                                                  2,124 mL
   PO:
   TF:
   IVF:
                                                                  1,736 mL
                                                                  1,240 mL
   Blood products:
                                                                  1,295 mL
                                                                    884 mL
   Total out:
                                                                    224 mL
                                                                    172 mL
   Urine:
                                                                    224 mL
                                                                    172 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,086 mL
                                                                  1,952 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 2L
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   General: Alert, oriented, no distress
   HEENT: Sclera anicteric, MM slightly dry, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Rhoncorous breath sounds bilaterally, no crackles
   CV: Regular rate and rhythm, mechanical S2, II/VI SEM at base
   Abdomen:  firm, tender to palpation in left flank, distended, bowel
   sounds present, no rebound tenderness or guarding, multiple ecchymoses
   present at sites of lovenox injections; firm mass in left flank at site
   of increased tenderness
   GU: foley draining amber urine
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema. No
   hematoma in groin bilaterally.
   Labs / Radiology
   132 K/uL
   8.7 g/dL
   144 mg/dL
   1.6 mg/dL
   30 mEq/L
   4.4 mEq/L
   27 mg/dL
   101 mEq/L
   141 mEq/L
   24.6 %
   11.5 K/uL
        [image002.jpg]
   Received blood: 1 in ED, 1 at 6pm, 2 at 10pm-MN, 1 at 6am
                             [**2142-5-15**]  05:54 PM
                             [**2142-5-15**]  09:50 PM
                             [**2142-5-16**]  02:32 AM
                             [**2142-5-16**]  04:15 AM
   WBC
   10.9
   11.5
   Hct
   26.6
   24.3
   23.6
   24.6
   Plt
   193
   132
   Cr
   1.6
   1.6
   Glucose
   156
   144
   Other labs: PT / PTT / INR:21.4/33.6/2.0, CK / CKMB /
   Troponin-T:203/4/, Fibrinogen:302 mg/dL, Lactic Acid:3.6 mmol/L,
   Ca++:7.4 mg/dL, Mg++:1.7 mg/dL, PO4:3.9 mg/dL
   [**5-16**] Mesenteric angiogram
 unread
   Assessment and Plan
 RETROPERITONEAL BLEED (RP BLEED), SPONTANEOUS
   67M w/St. [**Male First Name (un) 6198**] mechanical aortic valve admitted [**Date range (3) 12204**] for
   subtherapeutic INR now on lovenox bridge and coumadin who presents with
   2 days of low back pain and found to have retroperitoneal hematoma in
   setting of 8 point hct drop.
   .
   # RETROPERITONEAL BLEED. Retroperitoneal bleed found on CT torso
   w/contrast; 8 point Hct drop; systolics in 70s; on [**5-15**] received 2
   units FFP and 2 units pRBCs, 3.2L IVF in ED, more IVF on floor. On
   floor systolics in 100s (baseline 140s even on antihypertensives); HR
   in 80s. Hct 39.2 on [**5-9**] -> 31.4 at 12pm -> 25.5 at 3pm -> 26.6 at 6pm
   (during second unit pRBC). Etiology for bleed unclear; appears
   spontaneous in setting of supratherapeutic INR and lovenox bridge. CT
   negative for dissection; no history of trauma or recent intravascular
   manipulation/procedures.  Interventional radiology attempted to
   intervene last night but could not find a source for bleed, suggesting
   venous source.
   - Maintain active type and screen, 2 large bore PIV, 2 units crossed in
   blood bank
   - Hct q6h, transfuse for Hct > 25; platelets < 50 in setting of active
   bleeding
   - Hold home ASA/coumadin/lovenox, hold antihypertensives
   - Monitor UOP and I/Os and pressures; IVF or blood products for MAP <
   65 or UOP < 30 cc/hr
   - Monitor bladder pressure to assess for compartment syndrome in
   setting of distention (initially 21), elevated lactate, decreased UOP.
   - Trend lactate
   - General surgery following for increased abdominal pressure:
   appreciate recs
   - Vascular surgery following: appreciate recs - for now will defer to
   IR
   - IR following
   - Morphine for abdominal pain but watch blood pressures
   - Guaiac stools
   -fentanyl patch for pain control
   .
   # COAGULOPATHY/MECHANICAL VALVE. St. Jude's valve in aortic position,
   pt on coumadin with lovenox bridge. INR slightly supratherapeutic at
   4.2 on admission (goal 2.5-3.5). [**5-16**] INR decreased to 2.0 s/p 4 units
   FFP.  Patient received oral vitamin K overnight.
   - Ordered for 2 more units FFP (for total of 6 by [**5-16**] by 7am)
   - Will give vitamin K 5mg IV x 1 now
   - Hold coumadin/lovenox in setting of bleed
   - Cardiology recommended initially holding vitamin K but given
   continued bleeding, gave 5 mg [**5-16**] AM
   - Monitor coags q4 hours
   - Check fibrinogen [**Hospital1 **] (wnl thus far)
   - Will restart heparin with goal PTT 60-80 without bolus when INR < 2.0
   and Hct stable X 24 hours without transfusions
   - Continue home dicloxacillin for endocarditis prophylaxis
   .
   # ACUTE RENAL FAILURE. Creatinine 1.7 on admission. Received contrast
   for CT torso with prophylactic bicarb prior to procedure. Contrast
   again for angio, got NAC/bicarb.  Likely prerenal etiology in setting
   of hypovolemia/bleed despite large volume resuscitation; bladder scan
   on admission to MICU with only 50 cc urine. FeNa 0.3% (on diuretics),
   Na 45. Foley in place by urology. Urinalysis benign (neg nitrite,
   leuks; though occ bact on sediment). Low urine output overnight despite
   fluids/blood products.
   - Hold home lisinopril
   - Renally dose meds, avoid nephrotoxins
   - Monitor UOP, I/O. IVF for UOP < 30 cc/hr.
   - Monitor bladder pressures to rule out abdominal compartment syndrome
   - Follow urine culture (pending)
   - bolus 1 liter of fluid now and monitor UOP
   .
   # TACHYARRHYTHMIA/HISTORY OF ATRIAL FIBRILLATION. s/p PMP in [**2139**] in
   setting of CHB.  Pt initially in sinus rhythm, not paced, with RBBB in
   70s-90s. Later pt developed WCT, a-sensed v-paced, to 100s-120s, may
   have p waves present indicating this is a sinus tachycardia. In and out
   of sinus rhythm.
   - Continue amiodarone
   - Hold home metoprolol in setting of active bleeding/hypovolemia
   - consider EP consult if other arrhythmias or if PM interrogation
   required.
   .
   # LEUKOCYTOSIS. Possibly related to bleeding, multiple transfusions.
   - Trend WBC, monitor temperature, CIS.
   - Follow urine culture (pending)
   .
   # CAD s/p CABG.
   - Cycle cardiac enzymes in setting of bleed; first two sets negative
   - Hold ASA in setting of active bleeding
   .
   # Hypercholesterolemia
   - Continue simvastatin
   .
   # HYPERTENSION
   - Hold home lisinopril, metoprolol, HCTZ in setting of active bleeding.
   .
   # COPD
   - Continue home atrovent prn
   .
   # HISTORY OF GIB
   - Continue home omeprazole
   - Hold home iron until taking POs
   .
   # FEN: pRBCs/IVF, replete electrolytes, NPO except meds in setting of
   active bleeding; senna prn when taking POs
   # Prophylaxis: Pneumoboots (hold anticoagulation in setting of bleed)
   # Access: 2 PIV
   # Communication: Patient; sister [**Name (NI) 12205**] [**Telephone/Fax (1) 12206**] is HCP
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2142-5-15**] 06:36 PM
   18 Gauge - [**2142-5-15**] 06:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2142-05-16 08:49:00 Physician Attending Progress Note
Chief Complaint:  RP bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67 yo man with AVR on coumadin, admitted with spontaneous RP bleed in
   setting of INR of 4.2.  Patient went to IR last night in setting of
   continue dropping Hct, despite 5U PRBCs, 6U FFP.  However, IR unable to
   locate an arterial source.
   24 Hour Events:
 EKG - At [**2142-5-15**] 08:16 PM
   Allergies:
   Roxicet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Cefepime
   Headache;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2142-5-16**] 12:50 AM
   Morphine Sulfate - [**2142-5-16**] 05:00 AM
   Other medications:
   omeprazole
   amiodarone
   simvastatin
   dicloxicillin
   acetylcysteine
   Changes to medical and family history:
   PMHx: AVR, recurrent endocarditis
   ShX:  no tobacco, occasional ETOH.  Lives alone, no children
   FHx: noncontributaor for bleeding
   Meds at home as in resident note
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-5-16**] 08:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**44**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.9
C (96.7
   HR: 88 (64 - 113) bpm
   BP: 112/52(66) {78/41(52) - 112/67(92)} mmHg
   RR: 20 (7 - 24) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
   Bladder pressure: 24 (21 - 24) mmHg
   Total In:
                                                                  6,310 mL
                                                                  2,889 mL
   PO:
                                                                     60 mL
   TF:
   IVF:
                                                                  1,736 mL
                                                                  1,432 mL
   Blood products:
                                                                  1,295 mL
                                                                  1,397 mL
   Total out:
                                                                    224 mL
                                                                    292 mL
   Urine:
                                                                    224 mL
                                                                    292 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,086 mL
                                                                  2,597 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Distended, Tender: LLQ, no rebound
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, no groin hematoma or tenderness
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   132 K/uL
   144 mg/dL
   1.6 mg/dL
   30 mEq/L
   4.4 mEq/L
   27 mg/dL
   101 mEq/L
   141 mEq/L
   24.6 %
   11.5 K/uL
        [image002.jpg]
                             [**2142-5-15**]  05:54 PM
                             [**2142-5-15**]  09:50 PM
                             [**2142-5-16**]  02:32 AM
                             [**2142-5-16**]  04:15 AM
   WBC
   10.9
   11.5
   Hct
   26.6
   24.3
   23.6
   24.6
   Plt
   193
   132
   Cr
   1.6
   1.6
   Glucose
   156
   144
   Other labs: PT / PTT / INR:21.4/33.6/2.0, CK / CKMB /
   Troponin-T:203/4/, Fibrinogen:302 mg/dL, Lactic Acid:3.6 mmol/L,
   Ca++:7.4 mg/dL, Mg++:1.7 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
 RETROPERITONEAL BLEED (RP BLEED), SPONTANEOUS:
               -         Seems hypovolemic with low urine output.  Will
   give more aggressive IVF - 1L NS bolus now
               -         Will give IV vitamin K - 5mg, continue to keep
   INR <2, and keep Hct >25, platelets > 50, fibrinogen ok.
               -         continue to monitor bladder pressures
   Acute renal failure:  due to hypovolemia and dye load.  Continue HCO3
   drip, and IVF go get urine output up.
   Afib:  HR under good control.
   Leukocytosis:  likely due to stress from bleed.  No evidence of
   infection.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2142-5-15**] 06:36 PM
   18 Gauge - [**2142-5-15**] 06:37 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2142-05-17 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2142-5-16**] 04:15 PM
 INVASIVE VENTILATION - START [**2142-5-16**] 06:30 PM
 SPUTUM CULTURE - At [**2142-5-16**] 06:50 PM
 MULTI LUMEN - START [**2142-5-16**] 08:28 PM
 FEVER - 101.2
F - [**2142-5-16**] 09:00 PM
   - PM Hct 23 (from 25) after 1 unit of pRBCs in AM; ordered for 1
   additional unit of pRBCs
   - Pt subjectively SOB at ~3:30 PM, though O2 sats 100%; ordered for
   albuterol/ipratropium nebs with no relief of symptoms. O2 sats dropped
   transiently to 92-93% in setting of hyperventillation and patient
   appeared uncomfortable, so BiPAP initiated. Got IV Lasix 40, then 80 mg
   but no increased UOP.
   - CXR showed increased opacity over LLL (some effusion there)
   - EKG showed T-wave inversions in anterior leads more pronounced than
   on prior (although quality of EKG was low given patient's movement).
   - Cardiac enzymes showed elevated CK but only proportionally elevated
   CK-MB and flat troponins, raising concern for ? intra-abdominal process
   contributing to muscle necrosis
   - At 6:00 PM, patient still appearing in distress (anxious,
   diaphoretic) despite O2 sats in upper 90s. Lactate trending up, UOP
   trailing off, bladder pressure up to 29. Patient intubated.
   - Patient became hypotensive, so CVL placed in LIJ, but only extended
   to brachiocephalic. [**Month (only) 60**] need to be exchanged over wire for 20-cm line
   (current line is 16-cm).
   - Started on pressors with neo; converted to levophed for goal MAP > 65
   - A-line not placed
   - Spiked fever in PM to > 101, so started on vanco/zosyn, cultured. Of
   note, pus was leaking from around Foley at this time.
   - Bladder pressures trending up (25-29), Hct not yet stable, patient
   clinically worsening so contact[**Name (NI) **] surgery to update/re-evaluate as
   needed; they will add patient back onto list in AM if still unstable
   - Dr. [**Last Name (STitle) 2759**] (PCP) came to evaluate patient. He would like to
   communicate to team that he feels it is better to give MORE blood to
   keep up with losses and avoid hypoperfusion to organs. Also, was
   interested in giving protamine (limited data; see email) as the patient
   had recently been on Lovenox in addition to warfarin, and may need
   additional reversal.
   - Statin held given rising CKs
   Allergies:
   Roxicet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Cefepime
   Headache;
   Last dose of Antibiotics:
   Vancomycin - [**2142-5-16**] 10:30 PM
   Piperacillin - [**2142-5-16**] 11:27 PM
   Infusions:
   Fentanyl (Concentrate) - 75 mcg/hour
   Propofol - 30 mcg/Kg/min
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2142-5-16**] 02:42 PM
   Furosemide (Lasix) - [**2142-5-16**] 04:31 PM
   Morphine Sulfate - [**2142-5-16**] 08:00 PM
   Fentanyl - [**2142-5-17**] 03:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-5-17**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**44**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.6
C (99.7
   HR: 95 (61 - 136) bpm
   BP: 95/54(63) {69/37(45) - 142/90(99)} mmHg
   RR: 15 (10 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 15 (10 - 17)mmHg
   Bladder pressure: 23 (23 - 29) mmHg
   Mixed Venous O2% Sat: 66 - 73
   Total In:
                                                                  7,353 mL
                                                                  2,341 mL
   PO:
                                                                     90 mL
   TF:
   IVF:
                                                                  5,075 mL
                                                                  1,901 mL
   Blood products:
                                                                  2,097 mL
                                                                    350 mL
   Total out:
                                                                    922 mL
                                                                    130 mL
   Urine:
                                                                    922 mL
                                                                    130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,431 mL
                                                                  2,211 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 580) mL
   Vt (Spontaneous): 967 (967 - 967) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 25 cmH2O
   SpO2: 97%
   ABG: 7.40/41/91/26/0
   Ve: 15.2 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General: Withdraws to pain, not oriented to voice but currently sedated
   HEENT: Intubated
   CV: RRR, no m/r/g
   Lungs: Rhonchi b/l but breathing unlabored at this time
   Abdomen: Distneded/firm, ? tenderness
   Extremieites: DP pulses palpable but weak, hands/feet cool to touch
   GU: Pus at foley site
   Labs / Radiology
   131 K/uL
   9.3 g/dL
   164 mg/dL
   2.1 mg/dL
   26 mEq/L
   3.9 mEq/L
   34 mg/dL
   101 mEq/L
   140 mEq/L
   25.9 %
   18.5 K/uL
        [image002.jpg]
                             [**2142-5-16**]  04:15 AM
                             [**2142-5-16**]  09:30 AM
                             [**2142-5-16**]  02:30 PM
                             [**2142-5-16**]  07:36 PM
                             [**2142-5-16**]  09:39 PM
                             [**2142-5-16**]  10:08 PM
                             [**2142-5-16**]  10:28 PM
                             [**2142-5-17**]  01:01 AM
                             [**2142-5-17**]  01:58 AM
                             [**2142-5-17**]  05:10 AM
   WBC
   11.5
   13.2
   18.7
   18.5
   Hct
   24.6
   25.7
   23.7
   26.9
   24.5
   24.9
   25.9
   Plt
   132
   119
   131
   131
   Cr
   1.6
   1.4
   2.1
   TropT
   <0.01
   0.04
   0.07
   TCO2
   27
   26
   Glucose
   144
   145
   164
   Other labs:
   PT / PTT / INR:13.9/26.4/1.2,
   CK / CKMB / Troponin-T:[**2039**]/20/0.07,
   Fibrinogen:372 mg/dL,
   Lactic Acid:3.4 mmol/L,
   Ca++:7.6 mg/dL, Mg++:1.6 mg/dL, PO4:4.2 mg/dL
   Micro:
   - [**2142-5-15**] Urine culture no growth
- [**2142-5-16**] Sputum   GRAM STAIN (Final [**2142-5-16**]):
      >25 PMNs and <10 epithelial cells/100X field.
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS.
- [**2142-5-16**] Urine culture pending
- [**2142-5-16**] Blood culture pending x 2
[**2142-5-16**] CXR for line placement
 read pending
[**2142-5-17**] CXR this AM
 read pending
   Assessment and Plan
   67M w/St. [**Male First Name (un) 6198**] mechanical aortic valve admitted [**Date range (3) 12204**] for
   subtherapeutic INR now on lovenox bridge and coumadin who presents with
   2 days of low back pain and found to have retroperitoneal hematoma in
   setting of 8 point hct drop.
   .
   # Respiratory distress. Patient intubated [**5-16**] after ~90 minutes of
   uncomfortable breathing, patient in distress despite O2 sats in upper
   90s, no response to Lasix or IVF. Concern that origin of SOB may be
   increased abdominal pressure/work of breathing. Unable to tolerate
   BiPAP so intubated.
   - Currently on trial of pressure support
   - Monitor for PIP > 30 as could indicate compartment syndrome
   - Consider mental status, patient
s ability to tolerate BIPAP prior to
   extubation
   .
   # Hypotension. Patient dropped pressures to SBPs in 80s MAPs in 50s
   shortly after intubation and was unable to tolerate even low dose
   sedation. Therefore, CVL placed and started on pressors (initially neo,
   then converted to levophed).
   - Wean as tolerated
   - Goal MAP > 65
   .
   # Retroperitoneal bleed. Retroperitoneal bleed found on CT torso
   w/contrast; 8 point Hct drop; systolics in 70s; on [**5-15**] received 2
   units FFP and 2 units pRBCs, 3.2L IVF in ED, more IVF on floor. On
   floor systolics in 100s (baseline 140s even on antihypertensives); HR
   in 80s. Hct 39.2 on [**5-9**] -> 31.4 at 12pm -> 25.5 at 3pm -> 26.6 at 6pm
   (during second unit pRBC). Etiology for bleed unclear; appears
   spontaneous in setting of supratherapeutic INR and lovenox bridge. CT
   negative for dissection; no history of trauma or recent intravascular
   manipulation/procedures.  Interventional radiology attempted to
   intervene last night but could not find a source for bleed, suggesting
   venous source.  To date, patient has received 9 units of pRBCs with no
   bump in Hct.  Patient with elevated PIP, worsening creatinine, CKs, and
   bladder pressure concerning for abdominal compartment syndrome. General
   Surgery and Vascular surgery and IR are evaluating to determine optimal
   mngt at this time.
   - Maintain active type and screen, 2 large bore PIV, 2 units crossed in
   blood bank
   - Hct q6h, transfuse for Hct > 27; platelets < 50 in setting of active
   bleeding
   - Hold home ASA/coumadin/lovenox and send factor XA level
   - Hold antihypertensives
   - Monitor UOP and I/Os and pressures
   - Coordinate w/ IR whether tagged RBC scan or CT abdomen (non-con)
   would be more helpful to eval for bleeding
   - Coordinate with gen surgery, vascular [**Doctor First Name 458**] possible operative
   management in setting of concern for compartment syndrome
   - Monitor bladder pressure to assess for compartment syndrome in
   setting of elevated lactate, decreased UOP.
   - Trend lactate (increasing)
   - General surgery following for increased abdominal pressure:
   appreciate recs
   - Morphine for abdominal pain but watch blood pressures
   - Guaiac stools
   - fentanyl patch for pain control
   .
   # Concern for compartment syndrome.   Patient with elevated PIP,
   worsening creatinine, oliguria, elevated CKs, and bladder pressure
   concerning for abdominal compartment syndrome. General Surgery and
   Vascular surgery and IR are evaluating to determine optimal mngt.  We
   are coordinating with these teams at this time.
   .
   # COAGULOPATHY/MECHANICAL VALVE. St. Jude's valve in aortic position,
   pt on coumadin with lovenox bridge. INR slightly supratherapeutic at
   4.2 on admission (goal 2.5-3.5). [**5-16**] INR decreased to 2.0 s/p 4 units
   FFP.  Patient received oral vitamin K overnight. Total of 6 units FFP.
   INR now ~ normalized at 1.2.
   - Hold coumadin/lovenox in setting of bleed
   - Cardiology recommended initially holding vitamin K but given
   continued bleeding, gave 5 mg [**5-16**] AM
   - Monitor coags daily
   - Check fibrinogen [**Hospital1 **] (wnl thus far)
   - Continue home dicloxacillin for endocarditis prophylaxis
   - Discuss reversal with protamine
   .
   # ACUTE RENAL FAILURE. Creatinine 1.7 on admission. Received contrast
   for CT torso with prophylactic bicarb prior to procedure. Contrast
   again for angio, got NAC/bicarb.  Likely prerenal etiology in setting
   of hypovolemia/bleed despite large volume resuscitation; bladder scan
   on admission to MICU with only 50 cc urine. FeNa 0.3% (on diuretics),
   Na 45. Foley in place by urology. Urinalysis benign (neg nitrite,
   leuks; though occ bact on sediment). Low urine output overnight despite
   fluids/blood products. UOP currently down to 15 cc/hr. Renal failure
   likely secondary to increased abdominal pressure and poor perfusion to
   kidneys rather than hypovolemia.
   - Hold home lisinopril
   - Renally dose meds, avoid nephrotoxins
   - Monitor UOP, I/O. IVF for UOP < 30 cc/hr.
   - Trend bladder pressures, CK, lactate
   - Follow urine culture (pending)
   - Maintain Hct > 25
   .
   # Rising CKs. Do not seem cardiac in nature as CK-MB are only
   proportionally elevated and troponins < 0.1. Concerned that this may
   relate to muscle breakdown secondary to compartment syndrome.
   - Trend CKs
   - Monitor for compartment syndrome as below
   - D/C statin (recently changed type/dose to 80 simvastatin) in acute
   setting
   ..
   # TACHYARRHYTHMIA/HISTORY OF ATRIAL FIBRILLATION. s/p PMP in [**2139**] in
   setting of CHB.  Pt initially in sinus rhythm, not paced, with RBBB in
   70s-90s. Later pt developed WCT, a-sensed v-paced, to 100s-120s, may
   have p waves present indicating this is a sinus tachycardia. In and out
   of sinus rhythm.
   - Continue amiodarone
   - Hold home metoprolol in setting of active bleeding/hypovolemia
   - consider EP consult if other arrhythmias or if PM interrogation
   required.
   .
   # LEUKOCYTOSIS. Possibly related to bleeding, multiple transfusions.
   Still rising to 18 K today. Had episode of fever overnight so
   pan-cultured; sputum with multiple species of organisms. Pus at Foley
   site suggests one source of infection
   - Trend WBC, monitor temperature, CIS.
   - Follow urine, blood, sputum cultures (pending)
   - Tylenol for fever PRN
   - Leaving Foley in place for now as difficult to place (required
   urology)
   .
   # CAD s/p CABG. EKG showed more pronounced T-wave inversions after
   episode of SOB on [**5-16**].
   - Cycle cardiac enzymes in setting of bleed; first two sets negative
   - Hold ASA in setting of active bleeding
   - Re-check EKG
   .
   # Hypercholesterolemia
   - Simvastatin held as above
   .
   # HYPERTENSION
   - Hold home lisinopril, metoprolol, HCTZ in setting of active bleeding.
   .
   # COPD
   - Continue home atrovent prn
   .
   # HISTORY OF GIB
   - Continue home omeprazole
   - Hold home iron until taking POs
   .
   # FEN: pRBCs/IVF, replete electrolytes, NPO except meds in setting of
   active bleeding; senna prn when taking POs
   # Prophylaxis: Pneumoboots (hold anticoagulation in setting of bleed)
   # Access: 2 PIV, CVL (may need to be replaced with 20-cm line), A-line
   is needed given pressors
   # Communication: Patient; sister [**Name (NI) 12205**] [**Telephone/Fax (1) 12206**] is HCP
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2142-5-15**] 06:36 PM
   18 Gauge - [**2142-5-15**] 06:37 PM
   Multi Lumen - [**2142-5-16**] 08:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2142-05-17 09:21:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67 yo man with RP bleed in setting of coagulopathy.  Patient intubated
   overnight.  Became
   HOTNsive, started on levophed.  Rising CK and lactate concerning for
   abdominal compartment syndrome.
   24 Hour Events:
 EKG - At [**2142-5-16**] 04:15 PM
 INVASIVE VENTILATION - START [**2142-5-16**] 06:30 PM
 SPUTUM CULTURE - At [**2142-5-16**] 06:50 PM
 MULTI LUMEN - START [**2142-5-16**] 08:28 PM
 FEVER - 101.2
F - [**2142-5-16**] 09:00 PM
   Allergies:
   Roxicet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Cefepime
   Headache;
   Last dose of Antibiotics:
   Piperacillin - [**2142-5-16**] 11:27 PM
   Piperacillin/Tazobactam (Zosyn) - [**2142-5-17**] 07:40 AM
   Vancomycin - [**2142-5-17**] 08:38 AM
   Infusions:
   Fentanyl (Concentrate) - 125 mcg/hour
   Propofol - 30 mcg/Kg/min
   Norepinephrine - 0.35 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2142-5-16**] 02:42 PM
   Furosemide (Lasix) - [**2142-5-16**] 04:31 PM
   Morphine Sulfate - [**2142-5-16**] 08:00 PM
   Fentanyl - [**2142-5-17**] 03:42 AM
   Other medications:
   MgSO4
   omeprazole
   simvastatin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-5-17**] 09:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**44**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.2
C (100.8
   HR: 62 (61 - 136) bpm
   BP: 114/54(70) {69/37(45) - 142/90(99)} mmHg
   RR: 15 (10 - 29) insp/min
   SpO2: 90%
   Heart rhythm: A Paced
   CVP: 25 (10 - 25)mmHg
   Bladder pressure: 18 (18 - 29) mmHg
   Mixed Venous O2% Sat: 66 - 73
                                Total In:
                                                                  7,353 mL
                                                                  3,072 mL
   PO:
                                                                     90 mL
                                TF:
   IVF:
                                                                  5,075 mL
                                                                  2,406 mL
   Blood products:
                                                                  2,097 mL
                                                                    485 mL
   Total out:
                                                                    922 mL
                                                                    166 mL
   Urine:
                                                                    922 mL
                                                                    166 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,431 mL
                                                                  2,906 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 580) mL
   Vt (Spontaneous): 967 (967 - 967) mL
   PS : 12 cmH2O
   RR (Set): 0
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 26 cmH2O
   SpO2: 90%
   ABG: 7.40/41/91/26/0
   Ve: 11.5 L/min
   PaO2 / FiO2: 228
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Distended, Obese, firm
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   131 K/uL
   164 mg/dL
   2.1 mg/dL
   26 mEq/L
   3.9 mEq/L
   34 mg/dL
   101 mEq/L
   140 mEq/L
   23.7 %
   18.5 K/uL
        [image002.jpg]
                             [**2142-5-16**]  09:30 AM
                             [**2142-5-16**]  02:30 PM
                             [**2142-5-16**]  07:36 PM
                             [**2142-5-16**]  09:39 PM
                             [**2142-5-16**]  10:08 PM
                             [**2142-5-16**]  10:28 PM
                             [**2142-5-17**]  01:01 AM
                             [**2142-5-17**]  01:58 AM
                             [**2142-5-17**]  05:10 AM
                             [**2142-5-17**]  06:11 AM
   WBC
   13.2
   18.7
   18.5
   Hct
   25.7
   23.7
   26.9
   24.5
   24.9
   25.9
   23.7
   Plt
   119
   131
   131
   Cr
   1.4
   2.1
   TropT
   <0.01
   0.04
   0.07
   TCO2
   27
   26
   Glucose
   145
   164
   Other labs: PT / PTT / INR:13.9/26.4/1.2, CK / CKMB /
   Troponin-T:[**2039**]/20/0.07, Fibrinogen:372 mg/dL, Lactic Acid:3.4 mmol/L,
   Ca++:7.6 mg/dL, Mg++:1.6 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]):  Will check esophageal
   pressures as its hard to get plateau given that he is spontaneously
   breathing.  Continue current vent settings.
   Hemorrhage:  Will continue aggressive transfusion, aim for Hct 27.
   Will discuss with IR
   coagulopathy:  check factor Xa level to see if lovenox is still
   around.  INR has normalized.
   acute renal failure:  urine output has dropped off.  cause may be
   multifactorial including dye load, intrabdominal compartment syndrome.
   intrabdominal compartment syndrome:  rising CK and lactate is
   worrisome.  Will discuss with general surgery.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2142-5-15**] 06:36 PM
   18 Gauge - [**2142-5-15**] 06:37 PM
   Multi Lumen - [**2142-5-16**] 08:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill